US07691878B2
Preparation 6: Cyclohexylmethyl azide
Cyclohexylmethyl bromide (200 mg, 1.13 mmol) was added to a stirred solution of 0.5 M sodium azide in DMSO (2.48 mL, 1.24 mmol) at room temperature, under an atmosphere of nitrogen. After 21 h, the reaction was quenched by the addition of water (5 mL) and extracted with diethyl ether (3×4 mL). The combined organic layers were washed with brine (5 mL), dried (MgSO4), filtered and concentrated in vacuo to afford the title compound as a crude oil (136 mg) which was used without further purification.

reactant | Cyclohexylmethyl bromide | 1.13 mmol, 200 mg | C1(CCCCC1)CBr | C7H13Br
reactant | sodium azide | 0.5 M | [N-]=[N+]=[N-].[Na+]
reactant | DMSO | 1.24 mmol, 2.48 mL | CS(=O)C | C2H6OS
product | Cyclohexylmethyl azide | C1(CCCCC1)CN=[N+]=[N-] | C7H13N3
